US06124343
Methyl (RS)-a-hydroxy-(2-methylphenyl)acetate
A solution of (RS)-a-hydroxy-(2-methylphenyl)acetic acid (3.6 g) in methanol (80 ml) containing 2 drops of concentrated sulphuric acid was heated at reflux for 2 hours. The reaction mixture was concentrated and the residual oil partitioned between ethyl acetate and water. The organic phase was washed with water, dried over magnesium sulphate and evaporated to give the title compound (2.5 g) as a colourless oil.

reactant | (RS)-a-hydroxy-(2-methylphenyl)acetic acid | 3.6 g | OC(C(=O)O)C1=C(C=CC=C1)C | C9H10O3
reactant | methanol | 80 ml | CO | CH4O
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl (RS)-a-hydroxy-(2-methylphenyl)acetate | 2.5 g | OC(C(=O)OC)C1=C(C=CC=C1)C | C10H12O3
